US04946839
Preparation of 4-(Hydroxymethyl)azetidine-2-carboxylic acid.
179 mg (0.575 mmol) of N-benzyl-4-(hydroxymethyl)azetidine-2-carboxylic acid benzyl ester and 60 mg of 20% Pd(OH)2 /C (containing 31% of water) in 30 ml of methanol are hydrogenated in a Parr shaker under 4 atm of hydrogen for 3.5 h. The catalyst is filtered off through a double paper filter and washed with methanol, the solution evaporated, and the residue chromatographed on silica gel (isopropanol/water/conc. NH3 14:5:1) to yield, after evaporation and drying i.v., 53.6 mg (71%) of 4-(hydroxymethyl)azetidine-2-carboxylic acid as a colorless solid. 1H NMR (D2O): δ 4.71 (t, 1H, J=9), 4.56 (m, 1H), 3.80 (m, 2H), 2.81 (dt, 1H, J=12 (d), 9.5 (t)), 2.43 (dt, 1H, J=12.5 (d), 8.5 (t)). IR (nujol): 3239, 3146, 2589, 2438, 1620, 1565, 1410, 1327, 1302, 1188, 1099, 1038, 999, 885, 828, 758, 725 cm-1.

reactant | N-benzyl-4-(hydroxymethyl)azetidine-2-carboxylic acid benzyl ester | 0.575 mmol, 179 mg | C(C1=CC=CC=C1)OC(=O)C1N(C(C1)CO)CC1=CC=CC=C1 | C19H21NO3
reactant | water | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd(OH)2 | 60 mg | [OH-].[OH-].[Pd+2]
product | 4-(Hydroxymethyl)azetidine-2-carboxylic acid | OCC1CC(N1)C(=O)O | C5H9NO3
